US04254056
1-Methyl-6-(N-chloroacetylaminomethyl)-5-indanol
A solution of 850 mg of 1 methyl-5-indanol in 5 ml of a mixed solution of acetic acid and sulfuric acid (10:1 by volume) solution was mixed with 850 mg of N-hydroxymethyl chloroacetamide at room temperature under stirring for 2 hours. After reaction the reaction mixture was poured into 20 ml of water, extracted with ethyl acetate. The extract was washed with water, dried with anhydrous magnesium sulfate and concentrated under vacuum. The crude product thus obtained was purified by column chromatography on 100 g of Kiesel gel using an eluting agent comprising a mixture (20:1 by volume) of methylene chloride and ethyl acetate to provide 590 mg of the titled compound.

reactant | methyl-5-indanol | CC1CCC2=CC(=CC=C12)O | C10H12O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | N-hydroxymethyl chloroacetamide | 850 mg | OCNC(CCl)=O | C3H6ClNO2
solvent | water | 20 ml | O | H2O
product | 1-Methyl-6-(N-chloroacetylaminomethyl)-5-indanol | 590 mg | CC1CCC2=CC(=C(C=C12)CNC(CCl)=O)O | C13H16ClNO2
